US07176242B2
Preparation of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride
The slurry of [1-(3,5-difluorobenzyl)-3-(3-ethylbenzylamino)-2-hydroxypropyl]-carbamic acid tert-butyl ester (5.25 g, 0.012 m) in anhydrous dioxane (20 ml) was stirred (magnetic bar) at RT under nitrogen atmosphere in an 250 ml round-bottom flask, immersed in a cold water bath. The solution of hydrogen chloride in dioxane (4M, 32 ml) was added in one portion. The reaction mixture, initially homogenous, became a thick slurry within ca. 20 min. Mixture was stirred for 70 min, and was monitored by the TLC (silica gel plates, 5×10 cm, eluted with ethyl acetate—methanol 95:5 mixture). Ethyl ether (100 ml) was added, precipitated product was filtered off and rinsed with ether (2×50 ml). The filter cake was air-dried for 1 hour then placed in an vacuum oven at 35° C. and the oven evacuated (5 torr). Product was dried to constant mass for 7 hours. Yield was 5.24 g. LC-MS (m/e): 335 (M+1); purity: 100% (254 nm).

reactant | [1-(3,5-difluorobenzyl)-3-(3-ethylbenzylamino)-2-hydroxypropyl]-carbamic acid tert-butyl ester | 5.25 g | C(C)(C)(C)OC(NC(C(CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F)=O | C24H32F2N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 4M, 32 ml | O1CCOCC1 | C4H8O2
product | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C19H24F2N2O.2ClH/c1-2-13-4-3-5-14(6-13)11-23-12-19(24)18(22)9-15-7-16(20)10-17(21)8-15;;/h3-8,10,18-19,23-24H,2,9,11-12,22H2,1H3;2*1H/t18-,19+;;/m0../s1
